US07989461B2
Preparation of 6-bromo-7-methyl-8-nitroquinazolin-4(3H)-one
To H2SO4 (98%, 15 ml) was added 6-bromo-7-methylquinazolin-4(3H)-one (1.0 g, 4.2 mmol) and the mixture was stirred at rt until dissolution was complete. The mixture was cooled to 0° C. and then nitric acid (fuming) (0.26 g, 4.2 mmol) was added dropwise at 0° C. and stirred for 10 min, and then stirred at rt for 5 h. The mixture was poured onto ice (300 g) and extracted with EtOAc (3×80 ml). The combined organic layers were washed with brine (100 ml), dried over MgSO4 and concentrated in vacuo. The product was recrystallized from MeOH (˜15 ml). MS (M+H)+ 284, 286.

reactant | H2SO4 | 15 ml | OS(=O)(=O)O | H2O4S
reactant | 6-bromo-7-methylquinazolin-4(3H)-one | 4.2 mmol, 1.0 g | BrC=1C=C2C(NC=NC2=CC1C)=O | C9H7BrN2O
reactant | nitric acid | 4.2 mmol, 0.26 g | [N+](=O)(O)[O-] | HNO3
product | 6-bromo-7-methyl-8-nitroquinazolin-4(3H)-one | BrC=1C=C2C(NC=NC2=C(C1C)[N+](=O)[O-])=O | C9H6BrN3O3
